US04621092
N-(Benzoyl)-D,L-norleucine (40 g., 170 mmole) is taken into 300 ml. of tetrahydrofuran with stirring in an ice bath. To this is added dropwise dicyclohexylcarbodiimide (38.52 g., 187 mmole) in tetrahydrofuran (195 ml.). After 15 minutes the bath is removed and the reaction is allowed to run overnight. The dicyclohexylurea is filtered off and the filtrate is concentrated to dryness. The crude product (31.7 g.) is purified on silica gel in hexane:ether (2:1) to give 2-phenyl-4-butyl-5(4H)-oxazolone. This product crystallizes neat when refrigerated.

reactant | N-(Benzoyl)-D,L-norleucine | 170 mmole, 40 g | C(C1=CC=CC=C1)(=O)NC(CCCC)C(=O)O | C13H17NO3
reactant | dicyclohexylcarbodiimide | 187 mmole, 38.52 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 195 ml | O1CCCC1 | C4H8O
product | 2-phenyl-4-butyl-5(4H)-oxazolone | C1(=CC=CC=C1)C=1OC(C(N1)CCCC)=O | C13H15NO2
